US05098462
Lithium methylsulfonylmethyl(methyl)cuprate(I) is chilled to -78°, and 2-methoxycarbonylnicotinoyl chloride (3.2 g, 16.0 mmol) is slowly added, keeping the temperature at -65 to -70. The mixture is stirred at -78° for 1 hour, after which aq. ammonium chloride is added. The mixture is warmed to RT, poured into water and ethyl acetate and extracted with ethyl acetate. The combined organic phases are dried and reduced and the product is purified by prep. TLC to give methyl 3-acetyl-2-pyridinecarboxylate.

reactant | 2-methoxycarbonylnicotinoyl chloride | 16.0 mmol, 3.2 g | COC(=O)C1=C(C(=O)Cl)C=CC=N1 | C8H6ClNO3
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 3-acetyl-2-pyridinecarboxylate | C(C)(=O)C=1C(=NC=CC1)C(=O)OC | C9H9NO3
